US08440660B2
6-(4-Benzoyloxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 1-1)
5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1, 25.5 mg, 0.588 mmol) was dissolved in anhydrous tetrahydrofuran (0.5 mL), then triethylamine (19.7 μL, 0.141 mmol) and benzoyl chloride (8.2 μL, 0.071 mmol) were added thereto. The reaction mixture was stirred at room temperature for 30 minutes. The mixture was diluted with ethyl acetate (100 mL). The mixture was washed with water (100 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (26.7 mg) as a colorless solid. (Yield 63%)

reactant | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.588 mmol, 25.5 mg | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)O)OC)(C)C)C)C1)C | C27H28FNO3
reactant | triethylamine | 0.141 mmol, 19.7 μL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.071 mmol, 8.2 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-(4-Benzoyloxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 26.7 mg, Yield 63% | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC1=C(C=CC(=C1)F)C)OC | C34H32FNO4
